Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Estrogens / Seasonique
 
Attending: ___.
 
Chief Complaint:
"I was worried I was going to hurt myself"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ yo F with a PMHx significant for anxiety and 
depression with multiple prior suicide attempts and one 
psychiatric hospitalization who presented with escalating 
anxiety and urges to engage in self-injurious behavior.

Patient reported experiencing worsening depression and anxiety 
for the past ~2.5 weeks.  Patient reported longstanding anxiety 
and depression, with periods of stability that are "always 
followed by a downward spiral."  Identified school as a 
significant source of stress, and added that she has extremely 
high expectations for herself.  She had been experiencing 
regular panic attacks secondary to 2 specific classes, which had 
begun to interfere with her ability to attend.  Patient stated 
that she had been trying to suppress her depression and anxiety, 
but it had reached a point where she feels overwhelmed and 
unable to keep herself safe.

Patient reported a longstanding history of self-injurious 
behavior which initially manifest as cutting while she was in 
high school. She described a ritual of cutting which she 
describesd as "purifying," and takes the focus away from her 
emotional pain. Since being hospitalized psychiatrically in 
___, the patient had not engaged in cutting; however, she 
admitted to intentional overdoses on medications that are not 
meant to be lethal, but
rather meant to "cause a lot of harm."  She most recently 
ingested a potentially harmful dose of medications on day prior 
to presentation to the ED (Trazodone and Vistaril).  

Patient also endorsed chronically experiencing "voices," which 
had increased in volume and negative content over this time. She 
stated that she experiences these voices encouraging her to 
"start cutting again," along with derogatory statements such as
"worthless," and "failure."  Patient described these "voices" as 
originating within her own head and distinct from the words she 
hears when a person is speaking to her."

She additionally stated that since the voices have been under 
better control with regards to her decision not to cut herself 
anymore, the voices had been telling her to restrict her food 
intake, and she has been complying with them.   

She also endorsed perceiving things as more serious than they 
are during this time. She cited an example of feeling sure she 
was failing one of her classes and thinking she had missed 7 
homework assignments, when in reality she was doing quite well 
and only missing two homework assignments.  She also cited the 
perception that she has grossly overeaten, when in reality she 
had consumed yogurt, some leftovers, and chips over a 24-hour 
period.

Patient stated that while she does not want to die or kill 
herself, she does not feel that she can continue to keep herself 
safe and will likely engage in significant self-injurious
behavior if she continued in her current state without 
intervention. She also stated she is worried about her food 
intake given that she had been restricting her intake. 

Psychiatric ROS on admission:
- Depression - endorses anhedonia, hopelessness, fatigue,
difficulty concentrating, changes in appetite, and sleep
disturbances.
- Psychosis - endorses vague perceptual disturbances including
possible auditory hallucinations (vs. intrusive thoughts)
- Mania- denies symptoms including elevated mood or 
irritability,
marked increases in goal-directed behavior, racing thoughts, a
decreased need for sleep, or social/economic indiscretion
- Anxiety - Endorses symptoms of panic (sweating, palipitations,
SOB), shaking, nervousness, intrusive thoughts and ruminations

Course in Emergency Department (including behavior, medications
given): Pt was continued on her home meds
 
Past Medical History:
Past psychiatric history: 
- Sx/Dx: Anxiety, Depression, PMDD
- Hospitalizations: Once in ___ in ___ following a
suicide attempt
- Current treaters and treatment: Psychiatrist is Dr.
___ currently no therapist
- Medication and ECT trials: Zoloft (stopped working), 
Trazodone,
Ativan
- Self-injury/Suicide attempts: Multiple suicide attempts (most
recently ___ as well as intentional overdoses meant to
inflict harm (most recently last week).  First suicide attempt 
in
high school by cutting arms.  Significant history of cutting
which she describes as "purifying;" however, has refrained from
cutting since ___
- Harm to others: Denies
- Trauma: Reports two emotionally abusive relationships; denies
physical or sexual trauma

Past medical history: Childhood asthma, no current medical
problems 

 
Social History:
Substance use history:
- EtOH: Very occasional use
- Illicits: Denies (tried marijuana edibles twice and did not
like)
- Tobacco: Denies

Personal and Social History: ___
Family History:
Family psychiatric history:
- Fam Dx: Mother and sister with PMDD, Depression and anxiety
- Fam Hospitalizations: None known
- Fam Treatment Hx/Med Trials: Unknown
- Fam Hx Suicide: None Known to pt
 
Physical Exam:
DISCHARGE MENTAL STATUS EXAM:
A: Well appearing, well-groomed with good hygiene, appears 
stated age
B: Good eye contact, no psychomotor agitation or retardation
S: Normal rate, volume
M/A: "OK", euthymic, congruent affect
TP: Linear, goal and future oriented
TC: Denies SI/HI/VH. Endorses soft, mumbling AH
Cognition: Awake, alert, and oriented x 3
I/J: Fair/Improved
 
Pertinent Results:
___ 09:00PM BLOOD WBC-6.7 RBC-4.90 Hgb-13.1 Hct-41.3 MCV-84 
MCH-26.7 MCHC-31.7* RDW-14.0 RDWSD-43.1 Plt ___
___ 09:00PM BLOOD Neuts-60.7 ___ Monos-8.3 Eos-1.3 
Baso-0.3 Im ___ AbsNeut-4.07 AbsLymp-1.95 AbsMono-0.56 
AbsEos-0.09 AbsBaso-0.02
___ 09:00PM BLOOD Glucose-133* UreaN-13 Creat-0.9 Na-141 
K-4.1 Cl-102 HCO3-26 AnGap-17
___ 09:00PM BLOOD TSH-1.4
___ 09:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:13PM BLOOD Vit___ Folate-9.5
 
Brief Hospital Course:
Patient is a ___ year old F with a PMHx significant for anxiety 
and depression with multiple prior suicide attempts and one 
psychiatric hospitalization who presented with escalating 
anxiety, urges to engage in self-injurious behavior, and 
overdose with trazodone with intention of self-harm not 
lethality. Upon interview, patient endorsed worsening auditory 
hallucinations making derogatory statements and encouraging her 
to engage in self-injurious behavior and not to seek help. She 
reported depressed mood, anhedonia, sleep and appetite 
disturbances, feelings of hopelessness, and feelings of guilt. 
On exam, patient was cooperative and engaged, euthymic with 
reactive affect. Thought process was organized, logical and 
linear. She was not observed to be responding to internal 
stimuli. 
.
Diagnostically, etiology of presentation is likely 
multifactorial with likely primary mood disorder (high suspicion 
of major depressive disorder +/- psychotic features given 
description of ego dystonic auditory hallucinations) as well as 
underlying cluster B traits. Primary psychotic disorder seems 
less likely given thought organizations, intact cognition, and 
reactive affect. In a patient of this age would be hesitant to 
label this as a true personality disorder, however, would 
definitely keep character pathology on the differential. Patient 
also reported restrictive eating behaviors consistent with 
possible eating disorder. Patient also endorsed symptoms of 
worrying frequently about school, her social life, and her 
future as well as symptoms of panic including periods of 
tremulousness consistent with generalized anxiety disorder +/- 
panic disorder. Regardless of diagnosis, given her numerous risk 
factors that placed her at acutely elevated risk including 
single status, history of suicide attempts, recent overdose, 
history of psychiatric hospitalization, and age she certainly 
met inpatient level of care for diagnostic clarification, 
medication management, discharge and safety planning. 
.
#Legal/Safety
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. Patient did 
not require any physical or chemical restraints during this 
admission. 
.
#Psychiatric: Unspecified Mood Disorder/Generalized Anxiety 
Disorder: with etiology as above with concern for depressive 
episode with underlying cluster B traits contributing
-Patient was noted to attend some group sessions during which 
she was engaged and talkative
-After discussion of the risks and benefits of several second 
generation antipsychotics including Risperidone and Zyprexa, 
decided to start Risperidone for treatment of auditory 
hallucinations and affective instability. Started Risperdal 0.5 
mg QD and 0.5 mg TID PRN. 
-Patient noted positive effect in terms of decreased anxiety and 
voices that were not as interfering, but noted feeling sleepy 
and cognitive slowing. Therefore, Risperdal dose was decreased 
to 0.25 mg QD and 0.25 mg TID PRN. She tolerated this well with 
no further complaints of side effects and with significant 
relief in anxiety and feeling overwhelmed. 
.
#Medical: No acute medical issues
.
#Risk Assessment
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
recent overdose, suicidal ideation and urges for self-harm.  Her 
static factors noted at that time include history of suicide 
attempts, history of abuse, history of chronic mental illness, 
Caucasian race, age, single marital status, and lack of local 
social support (family in ___. However, the patient has a 
number of strengths--she was engaged with her treaters, has 
motivation for treatment and demonstrated help-seeking behaviors 
by presenting to the emergency room. Of note, by the time of 
discharge, patient was noted to have a "good" mood, euthymic and 
reactive affect, denied suicidal ideation and her thought 
process was linear and goal-oriented and patient was future 
oriented reporting motivation for treatment. Patient's mother 
had flown in from ___ to over support for an indefinite 
amount of time. Patient withdrew from school for this semester 
with plan to lighten courseload when she does return to school. 
Patient and patient's mother felt comfortable with plan for 
discharge and follow-up with ___ Program scheduled for the 
day after discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID 
2. HydrOXYzine 25 mg PO Q6H:PRN anxiety 
3. LamoTRIgine 200 mg PO DAILY 
4. Propranolol 20 mg PO Q4H:PRN anxiety 
5. FLUoxetine 20 mg PO DAILY 

 
Discharge Medications:
1.  RisperiDONE 0.25 mg PO DAILY 
RX *risperidone [Risperdal] 0.25 mg 1 tablet(s) by mouth daily 
Disp #*14 Tablet Refills:*0 
2.  RisperiDONE 0.25 mg PO TID:PRN anxiety 
RX *risperidone [Risperdal] 0.25 mg 1 tablet(s) by mouth three 
times per day as needed Disp #*42 Tablet Refills:*0 
3.  ClonazePAM 0.5 mg PO BID 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth Twice per day as 
needed Disp #*28 Tablet Refills:*0 
4.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth Daily Disp #*14 
Capsule Refills:*0 
5.  HydrOXYzine 25 mg PO Q6H:PRN anxiety 
RX *hydroxyzine HCl 25 mg 1 tablets by mouth Every 6 hours as 
needed Disp #*42 Tablet Refills:*0 
6.  LamoTRIgine 200 mg PO DAILY 
RX *lamotrigine [Lamictal] 200 mg 1 tablet(s) by mouth Daily 
Disp #*14 Tablet Refills:*0 
7.  Propranolol 20 mg PO Q4H:PRN anxiety 
RX *propranolol 20 mg 1 tablet(s) by mouth Every 4 hours as 
needed Disp #*42 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe
Generalized anxiety disorder

 
Discharge Condition:
A: Well-groomed, appears stated age
B: Good eye contact, no psychomotor retardation or agitation 
M: OK
A: Reactive, euthymic
TP: Linear, goal-oriented
TC: Reports murmuring auditory hallucinations. Denies SI, HI, 
VH. 
I/J: Fair/improved 
Cognition: Alert and oriented x 3, grossly intact 

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicidal 
thoughts.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___